US09085555B2
B. (3-Carbamoyl-indazol-1-yl)-acetic acid
To a solution of tert-butyl 2-(3-carbamoyl-1H-indazol-1-yl)acetate (3.42 g, 12.4 mmol) in CH2Cl2 (20 mL) was added TFA (10 mL, 130 mmol) and the resulting mixture was stirred at RT for 16 h. The reaction mixture was concentrated in vacuo, the residual solid was suspended in methanol and concentrated again in vacuo to give the title compound. MS (LC/MS): 220 [M+H]+; tR (HPLC conditions k): 1.79 min.

reactant | tert-butyl 2-(3-carbamoyl-1H-indazol-1-yl)acetate | 12.4 mmol, 3.42 g | C(N)(=O)C1=NN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C14H17N3O3
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3-Carbamoyl-indazol-1-yl)-acetic acid | C(N)(=O)C1=NN(C2=CC=CC=C12)CC(=O)O | C10H9N3O3
